US07713982B2
a) 3-butyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
A stirred solution of 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (10 g, 52 mmol) in anhydrous DMF (100 ml) was treated with K2CO3 (7.91 g, 57.2 mmol) and, after 10 minutes, BuI (6.51 ml, 57.2 mmol). After reacting for 2 days the reaction mixture was partitioned between 2M HCl(aq) and EtOAc. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated in vacuo to give an off-white solid. This was washed with hot cyclohexane and dried under vacuum to give the title compound (8.87 g, 68%); m/z 249.3[MH+].

reactant | 7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 52 mmol, 10 g | C(C=C)N1C=NC=2NC(NC(C12)=O)=O | C8H8N4O2
reactant | K2CO3 | 57.2 mmol, 7.91 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BuI | 57.2 mmol, 6.51 ml | C(CCC)I | C4H9I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-butyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 8.87 g, 68% | C(CCC)N1C(NC(C=2N(C=NC12)CC=C)=O)=O | C12H16N4O2
